reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]1[C:4](=[O:5])[N:6]1[H:11])([H:7])[H:8].[H:9][H:10],114.14429076421601
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[H:12][H:13].[N:1]([C:2](=[O:3])[C:4]([C:5][C:6]([O:7][H:16])([H:14])[H:15])([H:10])[H:11])([H:8])[H:9],101.41095600306801
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[O+:3][C:4]([O-:5])=[C:6]([O:7][H:15])[H:13])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],36.96390362379921
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([H:10])[H:11].[C:5](#[N:6])[H:12].[O:1]([C:2]([H:8])([H:9])[H:13])[H:7],91.0708848868568
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[C:4][H:10])=[C:5]=[N:6][H:9])([H:7])[H:8],80.53950618207021
[O:1]1[C@@:2]([C:5]#[N:6])([H:8])[C@@:3]1([O:4][H:7])[H:9]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],41.58343433136611
